US07402700B2
An improved process for producing diarylamines is to react an arylbromide and an aniline compound in the presence of a suitable catalyst. For example, aniline can be rapidly reacted with 4-bromobiphenyl to form N-phenyl-biphenylamine using palladium acetate ligated with 2,4,6-trioxa-1,3,5,7-tetramethyl-8-phosphaadamantane, which is manufactured as Cytop-216 (Cytec Industries), and sodium t-pentoxide base. This reaction proceeds rapidly, in about 4 to 6 hours, to produce the desired diarylamine.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-bromobiphenyl | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
product | N-phenyl-biphenylamine | C1(=CC=CC=C1)NC=1C(=CC=CC1)C1=CC=CC=C1 | C18H15N
